US05892131
Preparation of 1-Bromo-4-(p-chlorophenyl)-2-fluoro-4-methyl-2-pentene, (Z)-
Under a nitrogen atmosphere, a solution of triphenyl phosphine (0.96 g, 4.25 mmol) in carbon tetrachloride at -5° C. is treated dropwise with a solution of bromine (0.679 g, 4.25 mmol) in carbon tetrachloride, warmed to and stirred at room temperature for 45 minutes, treated with a solution of 4-(p-chlorophenyl)-2-fluoro-4-methyl-2-penten-1-ol, (Z)- (0.81 g, 3.54 mmol) in carbon tetrachloride, refluxed for 2 hours, cooled to room temperature, and poured into petroleum ether. The resultant mixture is filtered through diatomaceous earth. The filtrate is washed sequentially with water, saturated sodium hydrogen carbonate solution and brine, dried over anhydrous sodium sulfate and concentrated in vacuo to obtain an oil. Flash column chromatography of the oil using silica gel and a 1:9 ethyl acetate/hexanes solution gives the title product as a colorless oil (0.736 g, 71% yield) which is identified by NMR spectral analyses.

reactant | triphenyl phosphine | 4.25 mmol, 0.96 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | bromine | 4.25 mmol, 0.679 g | BrBr | Br2
reactant | 4-(p-chlorophenyl)-2-fluoro-4-methyl-2-penten-1-ol | ClC1=CC=C(C=C1)C(C=C(CO)F)(C)C | C12H14ClFO
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-Bromo-4-(p-chlorophenyl)-2-fluoro-4-methyl-2-pentene | 0.736 g, 71% yield | BrCC(=CC(C)(C)C1=CC=C(C=C1)Cl)F | C12H13BrClF
